US05958910
4-Benzyloxy-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide
A mixture of 0.5 g of 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrobromide with 0.51 g of 4-phenylmethoxy-benzenesulfonyl chloride was stirred overnight with 2 ml of pyridine. The resulting, red colored suspension was poured into 30 ml of 1N hydrochloric acid. The mixture was extracted three times with ethyl acetate. The organic phases were combined, dried with magnesium sulphate and freed from solvent. The residue was boiled with 30 ml of ethyl acetate, insoluble constituents were filtered off and the solution was treated at boiling with 20 ml of hexane. 0.5 g of 4-benzyloxy-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide separated as beige crystals upon cooling.

reactant | 4-(3-nitro-phenyl)-thiazol-2-ylamine hydrobromide | 0.5 g | Br.[N+](=O)([O-])C=1C=C(C=CC1)C=1N=C(SC1)N
reactant | 4-phenylmethoxy-benzenesulfonyl chloride | 0.51 g | C1(=CC=CC=C1)COC1=CC=C(C=C1)S(=O)(=O)Cl | C13H11ClO3S
reactant | hydrochloric acid | 1N, 30 ml | Cl | ClH
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 4-Benzyloxy-N-[4-(3-nitro-phenyl)-thiazol-2-yl]-benzenesulfonamide | C(C1=CC=CC=C1)OC1=CC=C(C=C1)S(=O)(=O)NC=1SC=C(N1)C1=CC(=CC=C1)[N+](=O)[O-] | C22H17N3O5S2
